US07589076B2
2-{3-[1-((4-Methoxy)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine.
Batch: AB-10-017. 4-methoxyphenyl 4-(prop-2-ynyl)piperidine-1-carboxylate, batch JR28-103 (597 g, 2.184 mmol) was added to a solution of 2-iodoadenosine (0.649 g, 1.651 mmol) according to general procedure 2. Yield: 0.294 g, 33%. 1H NMR (CD3OD) δ 8.30 (s, 1H), 7.00-6.87 (2×m, 4H), 5.94 (d, 1H), 4.73 (m, 2H), 4.33-4.14 (2×m, 3H), 3.92-3.76 (2×d, 5H), 3.10-2.90 (2×bt, 4H), 2.46 (d, 5H), 1.91-1.40 (2×m, 5H). m/z MH+=539.14. HPLC rt=5.5 min.

reactant | 4-methoxyphenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)OC | C16H19NO3
reactant | 2-iodoadenosine | 1.651 mmol, 0.649 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-((4-Methoxy)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine | COC1=CC=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=C1 | C26H30N6O7
